Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-0.18155001764000006
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4]#[C:5]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-5.45541620734
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],3.78105793471
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])[H:10].[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6][H:7])[C:11]([H:12])([H:13])[H:14],8.1372103681
[H:10].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.9080839465800015
[C:5]([H:6])([H:7])[H:8].[H:1][C:2]([C:3]#[C:4])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.93743369781
[H:1][C:2]=[C:3]([H:4])[C:5][C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])#[C:5][C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2],3.2373738427900003
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],3.90297736955
[C:4]#[C:5][O:6][H:7].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]#[C:5][O:6][H:7],-4.8986130797500005
[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.95476280181
[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]([H:3])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1][C:5](=[O:4])[H:6],4.37003996429
[H:1][O:2][C:3]/[C:4]([H:5])=[C:7]/[O:8][H:9].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],-2.3555856256
[C:8]([H:9])[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],-5.1957566
[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-4.55485766482
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:6]([H:7])[H:8].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],6.48094860893
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:3](#[C:4][C:5]([H:6])[H:7])[O:11][H:12].[H:1][O:2][C:8]([H:9])[H:10],3.62197382877
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[O:10][H:11]>>[H:1][C:2][C:3]([H:4])=[C:5][H:6].[O:7]=[C:8]([H:9])[O:10][H:11],0.7195455604109999
[C:4]([H:5])#[C:6][O:7][H:8].[H:1][C:2]#[C:3][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]=[C:3](/[C:4]([H:5])=[C:6]/[O:7][H:8])[C:9]([H:10])([H:11])[H:12],0.66840336648
[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2][O:3][C:4](=[O:5])[C:10]([H:11])([H:12])[H:13],0.397187730661
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17]>>[C:10]([H:11])([H:12])=[C:13][C:14]([H:15])([H:16])[H:17].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9],-1.31971246237
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:10].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8][H:9],5.17716307809
[C:1]#[C:2][C:3]([C:4]#[C:5])[O:6][H:7]>>[C:1]#[C:2][C:3][O:6][H:7].[C:4]#[C:5],5.25483802727
[O:1][C:2]#[C:3][C:4][H:5]>>[C:4][H:5].[O:1][C:2][C:3],8.33767658092
[C:8][O:9][H:10].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][H:7]>>[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][H:10],-5.74536888112
[H:1][C:2]#[C:3][O:4][C:5]=[C:6]([H:7])[H:8]>>[C:5]=[C:6]([H:7])[H:8].[H:1][C:2]#[C:3][O:4],1.64980071986
[H:1][C:2]#[C:3][O:4][C:5].[O:6][H:7]>>[H:1][C:2]#[C:3][O:4][C:5][O:6][H:7],-6.295301021830001
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11][H:12].[H:13],5.07357903989
[H:1][C:2]([H:3])=[C:4][O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[C:4]=[O:5],0.826242836091
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-0.75611063405
[O:1][C:2]#[C:3][C:4](=[O:5])[C:6]([H:7])([H:8])[H:9]>>[C:6]([H:7])([H:8])[H:9].[O:1][C:2]#[C:3][C:4][O:5],0.627275291009
[C:5]([O:6][H:7])=[C:8]([H:9])[H:10].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10],-4.80992348265
[H:10].[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.97810862556
